US07034018B2
4-[(2-Methoxyphenyl)-(1-phenyl-1H-pyrrol-2-yl)-methyl]-morpholine
The preparation was carried out in accordance with general synthesis instructions 4 from 1-phenyl-1H-pyrrole and 4-(2-methoxy-benzylidene)-morpholin-4-ium chloride.

reactant | 1-phenyl-1H-pyrrole | C1(=CC=CC=C1)N1C=CC=C1 | C10H9N
reactant | 4-(2-methoxy-benzylidene)-morpholin-4-ium chloride | [Cl-].COC1=C(C=[N+]2CCOCC2)C=CC=C1
product | 4-[(2-Methoxyphenyl)-(1-phenyl-1H-pyrrol-2-yl)-methyl]-morpholine | COC1=C(C=CC=C1)C(N1CCOCC1)C=1N(C=CC1)C1=CC=CC=C1 | C22H24N2O2
